US07153854B2
To a solution of ethyl[7-chloro-4-(4-fluorophenyl)-2-methylpyrrolo[1,2-b]pyridazin-3-yl]acetate (300 mg) in tetrahydrofuran (4 ml) was added 1N sodium hydroxide (1.7 ml), followed by methanol (2 ml). After standing at 20° C. overnight, the mixture was partitioned between 1N hydrochloric acid and ethyl acetate. The organic layer was separated, washed with water and brine, dried over magnesium sulfate, and evaporated. The residue was triturated with ether to give [7-chloro-4-(4-fluorophenyl)-2-methylpyrrolo[1,2-b]pyridazin-3-yl]acetic acid (250 mg) as an yellow powder.

reactant | ethyl[7-chloro-4-(4-fluorophenyl)-2-methylpyrrolo[1,2-b]pyridazin-3-yl]acetate | 300 mg | C(C)OC(CC1=C(C=2N(N=C1C)C(=CC2)Cl)C2=CC=C(C=C2)F)=O | C18H16ClFN2O2
reactant | sodium hydroxide | 1N, 1.7 ml | [OH-].[Na+]
reactant | methanol | 2 ml | CO | CH4O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | [7-chloro-4-(4-fluorophenyl)-2-methylpyrrolo[1,2-b]pyridazin-3-yl]acetic acid | 250 mg | ClC1=CC=C2N1N=C(C(=C2C2=CC=C(C=C2)F)CC(=O)O)C | C16H12ClFN2O2
